US09212187B2
Synthesis of 1-ethyl-3,3,5-trimethyl-7-[3-(2-phenylpiperidin-1-yl)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione hydrochloride
Potassium carbonate(0.54 g), sodium iodide(0.21 g), and 2-phenyl piperidine(0.23 g) were added to a DMF solution(15 ml) of 7-(3-chloropropoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione(0.44 g). The mixture was stirred at 70° C. for 5 hours. The reaction mixture was cooled to room temperature. Water was added thereto, followed by extraction by ethyl acetate. The organic layer was washed with water and then with saturated saline, and dried with anhydrous magnesium sulfate. After condensation under reduced pressure, the residue was purified by silica gel column chromatography (hexane: ethyl acetate=2:1→1:1). The purified product was condensed under reduced pressure. A 4N-Hydrogen chloride ethyl acetate solution(0.2 ml) was added to an ethyl acetate solution (10 ml) of the residue, which was stirred at room temperature. The liquid was condensed to dryness under reduced pressure to give the title compound(0.18 g) as a white amorphous solid.

reactant | Potassium carbonate | 0.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.21 g | [I-].[Na+]
reactant | 2-phenyl piperidine | 0.23 g | C1(=CC=CC=C1)C1NCCCC1 | C11H15N
reactant | 7-(3-chloropropoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.44 g | ClCCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C17H23ClN2O3
reactant | Hydrogen chloride ethyl acetate | 0.2 ml | C(C)OC(C)=O.Cl
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1-ethyl-3,3,5-trimethyl-7-[3-(2-phenylpiperidin-1-yl)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione hydrochloride | 0.18 g | Cl.C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCN2C(CCCC2)C2=CC=CC=C2 | InChI=1S/C28H37N3O3.ClH/c1-5-31-24-16-15-22(20-25(24)29(4)26(32)28(2,3)27(31)33)34-19-11-18-30-17-10-9-14-23(30)21-12-7-6-8-13-21;/h6-8,12-13,15-16,20,23H,5,9-11,14,17-19H2,1-4H3;1H
